US07071220B2
Synthesis of methyl 4-(5-fluoro-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate (Compound 17)
Into 300 mL of THF was dissolved 14.0 g of methyl 4-amino-3-methanesulfonylbenzoate, followed by addition of 6.10 g of sodium hydride (oily, 60%) at 0° C. After 40 minutes of stirring at the same temperature, 16.0 g of 2-chlorosulfonyl-5-fluoro-3-methylbenzo[b]thiophene was added at 0° C., followed by 3 hours of stirring at room temperature. After confirmation of disappearance of the starting material, the reaction was terminated by adding 2 mol/L hydrochloric acid at 0° C., followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation and the residue was diluted with ethyl acetate. After the solution was treated with active carbon, purification by recrystallization (ethyl acetate/ether) afforded 24.8 g of the title compound as colorless powder.

reactant | methyl 4-amino-3-methanesulfonylbenzoate | 14.0 g | NC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H11NO4S
reactant | sodium hydride | 6.10 g | [H-].[Na+]
reactant | 2-chlorosulfonyl-5-fluoro-3-methylbenzo[b]thiophene | 16.0 g | ClS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)F)C | C9H6ClFO2S2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | methyl 4-(5-fluoro-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate | 24.8 g | FC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C(=O)OC)C=C2)S(=O)(=O)C)C=C1 | C18H16FNO6S3
